US05055465
2-(1H-Imidazol-1-yl)imidazo[1,2-a]pyrido[2,3-e]pyrazin-=b 6(5H)-one
Prepare by reaction of 2,6-dichloro-3-nitropyridine with excess imidazole followed by hydrogenation with palladium on carbon and cyclization with carbonyldiimidazole to provide the title compound.

reactant | 2,6-dichloro-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(1H-Imidazol-1-yl)imidazo[1,2-a]pyrido[2,3-e]pyrazin | N1(C=NC=C1)C=1N=C2N(C3=C(N=C2)N=CC=C3)C1 | C12H8N6
